US08106064B2
3-[5-Isopropyl-2,6-bis-(4-methoxy-benzyloxy)-pyrimidine-4-carbonyl]-benzaldehyde (112):
A mixture of (3-hydroxymethyl-phenyl)-[5-isopropyl-2,6-bis-(4-methoxy-benzyloxy)-pyrimidin-4-yl]-methanone (1.9 g, 3.52 mmol), pyridinium chlorochromate (1.14 g, 5.28 mmol), and dried celite (1 g) in dichloromethane (20 ml) was stirred for 1 hr. at room temperature. The mixture was then filtered through a short silica gel pad and the pad was washed with EA. The combined filtrate was evaporated in vacuo and the residue was purified by silica gel column chromatography (eluent, EA:hexanes (1:4)) to afford 1.75 g (74%) of a pale yellow syrup. 1H NMR (200 MHz, CDCl3) δ 1.19 (6H, d, J=7.4 Hz), 2.88 (1H, m), 3.79 (3H, s), 3.83 (3H, s), 5.29 (2H, s), 5.45 (2H, s), 6.77-6.95 (4H, m), 7.28-7.42 (4H, m), 7.65 (1H, m), 8.11-8.28 (3H, m), 10.03 (1H, s).

reactant | (3-hydroxymethyl-phenyl)-[5-isopropyl-2,6-bis-(4-methoxy-benzyloxy)-pyrimidin-4-yl]-methanone | 3.52 mmol, 1.9 g | OCC=1C=C(C=CC1)C(=O)C1=NC(=NC(=C1C(C)C)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC | C31H32N2O6
reactant | pyridinium chlorochromate | 5.28 mmol, 1.14 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
product | 3-[5-Isopropyl-2,6-bis-(4-methoxy-benzyloxy)-pyrimidine-4-carbonyl]-benzaldehyde | 1.75 g, 74% | C(C)(C)C=1C(=NC(=NC1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)C(=O)C=1C=C(C=O)C=CC1 | C31H30N2O6
